### PR TITLE
[Merged by Bors] - feat: `s⁻¹.encard = s.encard`

### PR DESCRIPTION
**Pull request by YaelDillies**
From Kneser (LeanCamCombi)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Pointwise/Set/Card.lean [hunk 1]
```diff
@@ -47,6 +48,12 @@ lemma _root_.Cardinal.mk_inv (s : Set G) : #↥(s⁻¹) = #s := by
 lemma natCard_inv (s : Set G) : Nat.card ↥(s⁻¹) = Nat.card s := by
   rw [← image_inv, Nat.card_image_of_injective inv_injective]
 
+@[to_additive (attr := simp)]
+lemma encard_inv (s : Set G) : s⁻¹.encard = s.encard := by simp [encard, PartENat.card]
+
+@[to_additive (attr := simp)]
+lemma ncard_inv (s : Set G) : s⁻¹.ncard = s.ncard := by simp [ncard]
+
 @[to_additive (attr := deprecated (since := "2024-09-30"))] alias card_inv := natCard_inv
```
Comment (b-mehta) [inline Mathlib/Algebra/Group/Pointwise/Set/Card.lean:57]:
```suggestion
@[to_additive (attr := deprecated (since := "2024-09-30"))] alias card_inv := natCard_inv

@[to_additive (attr := simp)]
lemma encard_inv (s : Set G) : s⁻¹.encard = s.encard := by simp [encard, PartENat.card]

@[to_additive (attr := simp)]
lemma ncard_inv (s : Set G) : s⁻¹.ncard = s.ncard := by simp [ncard]
```
to keep the alias closer

File: Mathlib/Algebra/Group/Pointwise/Set/Card.lean [hunk 2]
```diff
@@ -79,6 +86,13 @@ lemma _root_.Cardinal.mk_smul_set (a : G) (s : Set α) : #↥(a • s) = #s :=
...
 
+@[to_additive (attr := simp)]
+lemma encard_smul_set (a : G) (s : Set α) : (a • s).encard = s.encard := by
+  simp [encard, PartENat.card]
+
+@[to_additive (attr := simp)]
+lemma ncard_smul_set (a : G) (s : Set α) : (a • s).ncard = s.ncard := by simp [ncard]
+
 @[to_additive (attr := deprecated (since := "2024-09-30"))]
 alias card_smul_set := Cardinal.mk_smul_set
```
Comment (b-mehta) [inline Mathlib/Algebra/Group/Pointwise/Set/Card.lean:97]: as above

**Review by b-mehta — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Group/Pointwise/Set/Card.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Pointwise/Set/Card.lean:57]: I was purposefully flushing the aliases to the bottom because they are mostly just noise. What's your rationale for wanting aliases closer to the declaration they already reference?

**Comment by YaelDillies** [comment]
bors merge

File: Mathlib/Algebra/Group/Pointwise/Set/Card.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Algebra/Group/Pointwise/Set/Card.lean]: Since they reference the declaration, it's easier to identify which lemma is being referenced rather than needing to scroll to find it. In addition, in the docs, it's useful to have these lemmas next to each other rather than having other things in between.
